US05455274
A stirred solution of 4-[5-(4-cyanophenoxy)pentyloxy]-2-hydroxy-benzoic acid (28 g, 82 mmol) in 300 mL of dichloromethane is treated with pyridine (13.3 mL, 164 mmol) and acetic anhydride (9.3 mL, 98.4 retool) and stirred at room temperature for 30 minutes. The reaction is concentrated in vacuo and the residue is partitioned between ethyl acetate and 1N hydrochloric acid. The organic phase is washed with 1N hydrochloric acid and brine, dried over sodium sulfate, and concentrated in vacuo. The resulting 2-acetoxy-4-[5-(4-cyanophenoxy)pentyloxy]-benzoic acid is then dissolved in 300 mL of dichloromethane and treated at 0° C. with oxalyl chloride (8.6 mL, 98.4 mmol) and N,N-dimethylformamide (7.6 mL, 98.4 mmol). This solution is stirred at room temperature for 30 minutes and treated with 30 mL of diisopropylamine at 0° C. After stirring at room temperature for 30 minutes, the reaction is filtered and the filtrate is concentrated in vacuo. The resulting material is partitioned between ethyl acetate and 1N hydrochloric acid. The organic phase is washed with brine, dried over sodium sulfate, and concentrated in vacuo to afford 2-acetoxy-4-[ 5-(4-cyanophenoxy)pentyloxy]-N,N-bis(1-methylethyl)benzamide.

reactant | 4-[5-(4-cyanophenoxy)pentyloxy]-2-hydroxy-benzoic acid | 82 mmol, 28 g | C(#N)C1=CC=C(OCCCCCOC2=CC(=C(C(=O)O)C=C2)O)C=C1 | C19H19NO5
reactant | pyridine | 164 mmol, 13.3 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 9.3 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | oxalyl chloride | 98.4 mmol, 8.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 98.4 mmol, 7.6 mL | CN(C=O)C | C3H7NO
reactant | diisopropylamine | 30 mL | C(C)(C)NC(C)C | C6H15N
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 2-acetoxy-4-[ 5-(4-cyanophenoxy)pentyloxy]-N,N-bis(1-methylethyl)benzamide | C(C)(=O)OC1=C(C(=O)N(C(C)C)C(C)C)C=CC(=C1)OCCCCCOC1=CC=C(C=C1)C#N | C27H34N2O5
